US07371773B2
Production of methyl 4-[(Z)-2-cyano-2-(3,4-dimethoxy-phenyl)-vinyl]-benzoate (Compound 36)
Methyl 4-formylbenzoate (1.64 g) and 3,4-dimethoxybenzyl cyanide (1.77 g) were subjected to condensation in accordance with process B of (production process 2), to thereby produce the target product (0.97 g, yield: 30%).

reactant | Methyl 4-formylbenzoate | 1.64 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | 3,4-dimethoxybenzyl cyanide | 1.77 g | COC=1C=C(CC#N)C=CC1OC | C10H11NO2
product | methyl 4-[(Z)-2-cyano-2-(3,4-dimethoxy-phenyl)-vinyl]-benzoate | 0.97 g, yield: 30% | C(#N)\C(=C/C1=CC=C(C(=O)OC)C=C1)\C1=CC(=C(C=C1)OC)OC | C19H17NO4
